US04794120
5.1. 3-Methylsulphinyl-1-trifluoroacetylimidazo[1,5-a]pyridine
A solution of 15.6 g (0.06 mole) of 3-methylthio-1-trifluoroacetylimidazo[1,5-a]pyridine (J. Bourdais et al. J. Het. Chem. 17, 1351, 1980) in 750 ml of chloroform is cooled to 5° C. 30.6 g (0.132 mole) of m-chloroperbenzoic acid is added in the course of approximately 1 h.

reactant | 3-methylthio-1-trifluoroacetylimidazo[1,5-a]pyridine | 0.06 mole, 15.6 g | CSC1=NC(=C2N1C=CC=C2)C(C(F)(F)F)=O | C10H7F3N2OS
reactant | m-chloroperbenzoic acid | 0.132 mole, 30.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 750 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Methylsulphinyl-1-trifluoroacetylimidazo[1,5-a]pyridine | CS(=O)C1=NC(=C2N1C=CC=C2)C(C(F)(F)F)=O | C10H7F3N2O2S
